US04988689
A mixture of 12.8 parts of 2-bromothiazole, 22 parts of N-[1-(2-aminoethyl)-3-pyrrolidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2 -amine and 250 parts of pyridine was stirred and refluxed for 6 hours. After cooling, 12.8 parts of 2-bromothiazole were added and stirring was continued overnight at reflux temperature. The mixture was cooled and evaporated. The residue was taken up three times in methylbenzene and the latter was evaporated each time. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, hexane, methanol and ammonium hydroxide (45:45:10:1 by volume) as eluent. The pure and the less pure fractions were collected and the eluent was evaporated. The residue was purified by column chromatography (HPLC) over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (96:3:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and 2-propanone. The product was filtered off and dried, yielding 2.0 parts (7.3%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolylamino)ethyl]-3-pyrrolidinyl]-1H-benzimidazol-2-amine; mp. 127.1° C. (compound 168).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | N-[1-(2-aminoethyl)-3-pyrrolidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2 -amine | NCCN1CC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C20H24FN5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolylamino)ethyl]-3-pyrrolidinyl]-1H-benzimidazol-2-amine | 7.3% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CN(CC2)CCNC=2SC=CN2 | C23H25FN6S
